US05514676
2,3-diamino-5-fluorobenzoic acid (100 mg, 0.59 mmol) was combined with water (10 mL) in a small reaction vial. To this solution was slowly bubbled hydrogen chloride gas until all the solid dissolved, approximately 30 seconds. The solvents were removed in vacuo to produce a dark solid of 2,3-diamino-5-fluorobenzoic acid dihydrochloride (110 mg, 77%) which was identical in all respects to the sample prepared in Method A.: m.p. 215°-217° (dec); 1H NMR (400 MHz, D2O) δ 7.11 (dd, 1H), 7.43 (dd, 1H); 13C NMR (100 MHzD2O) δ 102.4, 102.7, 104.6, 104.8, 109.3, 109.4, 137.0, 138.5, 138.6, 152.0, 154.8, 170.1.

reactant | 2,3-diamino-5-fluorobenzoic acid | 0.59 mmol, 100 mg | NC1=C(C(=O)O)C=C(C=C1N)F | C7H7FN2O2
reactant | hydrogen chloride | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 2,3-diamino-5-fluorobenzoic acid dihydrochloride | 110 mg, 77% | Cl.Cl.NC1=C(C(=O)O)C=C(C=C1N)F | InChI=1S/C7H7FN2O2.2ClH/c8-3-1-4(7(11)12)6(10)5(9)2-3;;/h1-2H,9-10H2,(H,11,12);2*1H
